US06090825
A solution of 1-[4-(4-chloromethyl-5-phenyl-oxazol-2-yl)-piperidin-1-yl]ethanone (30 g, 94.1 mmol), prepared as in Intermediate 3B, in 2,2,2-trifluoroethanol (450 ml) is treated with a solution of NaOH (56 g, 1412 mmol) in water (150 ml). After heating at 72° C. for 15 hours, the reaction mixture is concentrated. The residue is partitioned between EtOAc and water. The aqueous phase is reextracted once with EtOAc, and the combined organic phases are washed with saturated brine, dried (Na2SO4) and concentrated to afford 1-{4-[5-phenyl-4-(2,2,2-trifluoroethoxymethyl)-oxazol-2-yl]-piperidin-1-yl}-ethanone.

reactant | 1-[4-(4-chloromethyl-5-phenyl-oxazol-2-yl)-piperidin-1-yl]ethanone | 94.1 mmol, 30 g | ClCC=1N=C(OC1C1=CC=CC=C1)C1CCN(CC1)C(C)=O | C17H19ClN2O2
reactant | NaOH | 1412 mmol, 56 g | [OH-].[Na+]
reactant | 2,2,2-trifluoroethanol | 450 ml | FC(CO)(F)F | C2H3F3O
solvent | water | 150 ml | O | H2O
product | 1-{4-[5-phenyl-4-(2,2,2-trifluoroethoxymethyl)-oxazol-2-yl]-piperidin-1-yl}-ethanone | C1(=CC=CC=C1)C1=C(N=C(O1)C1CCN(CC1)C(C)=O)COCC(F)(F)F | C19H21F3N2O3
